US07943652B2
A mixture of (E)-3-(4-pyrrolidin-2-yl-phenyl)-acrylic acid methyl ester (5.52 g, 20.6 mmol), 3-butynyl p-toluenesulfonate (4.55 mL, 24.7 mmol) and potassium carbonate (5.98 g, 43.3 mmol) in acetonitrile (15 mL) was heated at 65° C. for 9 h. After cooled to room temperature, the reaction mixture was filtered, concentrated, and purified via silica gel column chromatography, and the residue was recrystallized from heptane to provide (E)-3-[4-(1-but-3-ynyl-pyrrolidin-2-yl)-phenyl]-acrylic acid methyl ester (3.68 g, 63% yield). LCMS (m/z): 284.2 (M+1).

reactant | (E)-3-(4-pyrrolidin-2-yl-phenyl)-acrylic acid methyl ester | 20.6 mmol, 5.52 g | COC(\C=C\C1=CC=C(C=C1)C1NCCC1)=O | C14H17NO2
reactant | 3-butynyl p-toluenesulfonate | 24.7 mmol, 4.55 mL | C1(=CC=C(C=C1)S(=O)(=O)OCCC#C)C | C11H12O3S
reactant | potassium carbonate | 43.3 mmol, 5.98 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | (E)-3-[4-(1-but-3-ynyl-pyrrolidin-2-yl)-phenyl]-acrylic acid methyl ester | 3.68 g, 63% yield | COC(\C=C\C1=CC=C(C=C1)C1N(CCC1)CCC#C)=O | C18H21NO2
